US04728355
A stirred solution of 20.0 grams of 4,5-dichloro-3-pyridazone in 150 ml of phosphorus oxychloride is heated under reflux for five hours. The excess phosphorus oxychloride is removed under reduced pressure, and the residue poured into ice water. The mixture is extracted with diethyl ether. The extract is dried with magnesium sulfate, filtered, and the filtrate concentrated to a residue. The residue is distilled under reduced pressure. A fraction, b.p. 117°-118° C./14-15 mm, 20 grams, solidifies on standing. The solid is recrystallized from acetone-water to yield 3,4,5-trichloropyridazine; m.p. 61° C.

reactant | 4,5-dichloro-3-pyridazone | 20.0 grams | ClC=1C(NN=CC1Cl)=O | C4H2Cl2N2O
reactant | phosphorus oxychloride | 150 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3,4,5-trichloropyridazine | ClC=1N=NC=C(C1Cl)Cl | C4HCl3N2
